US07118603B2
534 gm of anthracene and 326 ml of concentrated sulfuric acid were taken in a 2 liter round bottom flask fitted with a stirrer. The contents of the flask were heated to 140° C. for 90 minutes with continuous stirring. 1 ml of the mass was taken in a beaker and 3 ml water was added with shaking. It was observed to form a clear solution without free naphthalene smell, confirming the completion of sulfonation. The sulfonated mass was transferred to a reactor fitted with a thermometer, stirrer and a dropping funnel. The mass was stirred continuously for a period of 10 min. while maintaining the temperature at 80° C. A mixture of 5.4 gm oxalic acid, 4.14 gm salicylic acid and 10 gm phthalic acid dissolved in 50 ml water was added to the above sulfonated mass and stirring was continued at 80° C.

reactant | anthracene | 534 gm | C1=CC=CC2=CC3=CC=CC=C3C=C12 | C14H10
reactant | sulfuric acid | 326 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 3 ml | O | H2O
product | naphthalene | C1=CC=CC2=CC=CC=C12 | C10H8
